US07612060B2
Step (iii): Synthesis of 4-((R)-1-(4-(((R)-1-(3 4-dichlorobenzenesulfonyl)-3-oxo-1,2,3,4-tetra-hydropyrazin-2-yl)methyl)-1H-1,2,3-triazol-1-yl)ethyl)benzaldehyde (69)
To a solution of (R)-4-(3,4-dichlorobenzenesulfonyl)-3-((1-((R)-1-(4-(hydroxymethyl)-phenyl)ethyl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one (0.461 g, 0.882 mmol) in CH2Cl2 (100 mL) was added MnO2 (1.92 g, 22.1 mmol). After 1.5 h, MeOH (20 mL) was added. After the reaction mixture had stirred for 15 min, it was filtered through Celite and the solid was washed with CH2Cl2/MeOH (10/1). The solvent was removed under reduced pressure and dried in vacuo to yield the title compound.

reactant | (R)-4-(3,4-dichlorobenzenesulfonyl)-3-((1-((R)-1-(4-(hydroxymethyl)-phenyl)ethyl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one | 0.882 mmol, 0.461 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC=1N=NN(C1)[C@H](C)C1=CC=C(C=C1)CO | C22H21Cl2N5O4S
reactant | MeOH | 20 mL | CO | CH4O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 22.1 mmol, 1.92 g | O=[Mn]=O
product | 4-((R)-1-(4-(((R)-1-(3 4-dichlorobenzenesulfonyl)-3-oxo-1,2,3,4-tetra-hydropyrazin-2-yl)methyl)-1H-1,2,3-triazol-1-yl)ethyl)benzaldehyde | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC=1N=NN(C1)[C@H](C)C1=CC=C(C=O)C=C1 | C22H19Cl2N5O4S
